US07855227B2
Step F 2-[[2-[3-(3-Fluoro-benzyloxy)-phenyl]-ethyl]-(furan-2-ylmethyl)amino]-acetamide
A solution of 1.8 g (5.53 mmol) of [2-[3-(3-fluoro-benzyloxy)-phenyl]-ethyl]-(furan-2-ylmethyl)amine, 0.57 g (6.08 mmol) of 2-chloro-acetamide and 0.92 ml (6.62 mmol) of triethylamine in 5 ml of dry dimethylformamide was heated at 120° C. for 2 hours with microwaves. Solvent was removed under vacuum, water was added and the product was extracted with ethyl acetate. The crude reaction mixture was purified by flash chromatography (dichloromethane/methanol 95:5 v:v). 2.1 g (99% yield) of a yellow oil were isolated.

reactant | [2-[3-(3-fluoro-benzyloxy)-phenyl]-ethyl]-(furan-2-ylmethyl)amine | 5.53 mmol, 1.8 g | FC=1C=C(COC=2C=C(C=CC2)CCNCC=2OC=CC2)C=CC1 | C20H20FNO2
reactant | 2-chloro-acetamide | 6.08 mmol, 0.57 g | ClCC(=O)N | C2H4ClNO
reactant | triethylamine | 6.62 mmol, 0.92 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[[2-[3-(3-Fluoro-benzyloxy)-phenyl]-ethyl]-(furan-2-ylmethyl)amino]-acetamide | 2.1 g, 99% yield | FC=1C=C(COC=2C=C(C=CC2)CCN(CC(=O)N)CC=2OC=CC2)C=CC1 | C22H23FN2O3
